US06093731
A solution of methyl 4-[({4-chloro-1-guanidino-7-isoquinolinyl}sulphonyl)amino]-1-methyl-4-piperidinecarboxylate (100 mg, 0.22 mmol) in aqueous NaOH (2 ml, 2M, 4 mmol) and MeOH (5 ml) was stirred at 60° C. for 42 h. The cooled solution was neutralised using 2M HCl, and the mixture concentrated in vacuo, until precipitation occurred. The solid was filtered, dried and dissolved in concentrated HCl, and the solution evaporated in vacuo. The resulting solid was triturated with Et2O, then i-PrOH, and dried under vacuum, to give 4-[({4-chloro-1-guanidino-7-isoquinolinyl}sulphonyl)amino]-1-methyl-4-piperidinecarboxylic acid hydrochloride (18 mg, 0.035 mmol).

reactant | methyl 4-[({4-chloro-1-guanidino-7-isoquinolinyl}sulphonyl)amino]-1-methyl-4-piperidinecarboxylate | 0.22 mmol, 100 mg | ClC1=CN=C(C2=CC(=CC=C12)S(=O)(=O)NC1(CCN(CC1)C)C(=O)OC)NC(=N)N | C18H23ClN6O4S
reactant | NaOH | 4 mmol, 2M, 2 ml | [OH-].[Na+]
reactant | HCl | 2M | Cl | ClH
solvent | MeOH | 5 ml | CO | CH4O
product | 4-[({4-chloro-1-guanidino-7-isoquinolinyl}sulphonyl)amino]-1-methyl-4-piperidinecarboxylic acid hydrochloride | 0.035 mmol, 18 mg | Cl.ClC1=CN=C(C2=CC(=CC=C12)S(=O)(=O)NC1(CCN(CC1)C)C(=O)O)NC(=N)N | InChI=1S/C17H21ClN6O4S.ClH/c1-24-6-4-17(5-7-24,15(25)26)23-29(27,28)10-2-3-11-12(8-10)14(22-16(19)20)21-9-13(11)18;/h2-3,8-9,23H,4-7H2,1H3,(H,25,26)(H4,19,20,21,22);1H
